US08802713B2
0.2 g of 4-cyano-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole was dissolved in 10 mL of chloroform, and 93 mg of m-chloroperbenzoic acid (purity: 75%) was added under cooling with ice. After stirring for one hour under cooling with ice, the solution was washed with an aqueous sodium thiosulfate solution and then washed with an aqueous sodium hydrogen carbonate solution, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, the obtained residue was purified by silica gel column chromatography (developing solvent ethyl acetate:hexane=1:2) to obtain 0.19 g of 4-cyano-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl}-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole.

reactant | 4-cyano-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole | 0.2 g | C(#N)C=1C(=NN(C1)C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OC(C(OC(F)(F)F)F)(F)F | C16H9F10N3O2S
reactant | m-chloroperbenzoic acid | 93 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-cyano-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl}-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole | 0.19 g | C(#N)C=1C(=NN(C1)C1=C(C=C(C(=C1)S(=O)CC(F)(F)F)C)F)OC(C(OC(F)(F)F)F)(F)F | C16H9F10N3O3S
